US05972965
Triethylamine (3.36 ml) was added to a stirred solution of 3-benzyloxybenzoic acid (5.0 g) and isobutyl chloroformate (3.13 ml) in THF (67 ml) under ice-cooling and the resulting mixture was stirred at the same temperature for 1 hour. A solution of 2-piperidinecarboxylic acid (4.14 g) and NaHCO3 (3.32 g) in water (40 ml) was added dropwise to the stirred mixture at the same temperature and the mixture was stirred at the same temperature for 2 hours and at room temperature overnight. The reaction mixture was partitioned between ethyl acetate and 1N HCl. The organic layer was separated, washed with 1N HCl (twice) and brine, dried over MgSO4, and evaporated in vacuo. The residue was chromatographed over silica gel to afford 1-(3-benzyloxybenzoyl)-2-piperidinecarboxylic acid (2.01 g) as a amorphous powder. (+) APCI-MS (m/z): 340 (M+ +1) IR (Nujol): 2590, 1710, 1595, 1575, 1230 cm-1

reactant | 3-benzyloxybenzoic acid | 5.0 g | C(C1=CC=CC=C1)OC=1C=C(C(=O)O)C=CC1 | C14H12O3
reactant | isobutyl chloroformate | 3.13 ml | ClC(=O)OCC(C)C | C5H9ClO2
reactant | 2-piperidinecarboxylic acid | 4.14 g | N1C(CCCC1)C(=O)O | C6H11NO2
reactant | NaHCO3 | 3.32 g | C(=O)(O)[O-].[Na+]
solvent | THF | 67 ml | C1CCOC1 | C4H8O
solvent | water | 40 ml | O | H2O
solvent | Triethylamine | 3.36 ml | C(C)N(CC)CC | C6H15N
product | 1-(3-benzyloxybenzoyl)-2-piperidinecarboxylic acid | 2.01 g | C(C1=CC=CC=C1)OC=1C=C(C(=O)N2C(CCCC2)C(=O)O)C=CC1 | C20H21NO4
